US07300930B2
2,6-Bis[3-(pyrrolidino)propionamido]-9(10H)-acridone (AR-ACO-10)
2,6-Bis(3-chloropropionamido)-9(10H)-acridone (AR-ACO-9, 3.00 g, 7.38 mmol) and KI (0.10 g, 0.60 mmol) were suspended in a mixture of dimethylformamide (45 mL) and ethanol (45 mL). Pyrrolidine (12 mL, 10.22 g, 144 mmol) was added in one lot and the whole stirred at reflux for 21 hr. The flask was cooled and all the solvents removed under reduced pressure. Dimethylformamide (100 mL) was added to the flask and this was in turn removed under reduced pressure. The process was repeated with toluene (2×100 mL) and propan-2-ol (2×100 mL). The solid in the flask was dissolved in water (60 mL) and 0.88 s.g. ammonia (10 mL) was added dropwise with stirring to yield an orange-brown precipitate. The flask was chilled with ice-water and the product collected, washed with dilute ammonia (2×10 mL, 1% dilution of 0.88 s.g. ammonia) and ice-cold water (2×10 mL). The product was dried in air and over P2O5 under vacuum to yield a yellow solid AR-ACO-10 (3.11 g, 87%).

reactant | 2,6-Bis(3-chloropropionamido)-9(10H)-acridone | 7.38 mmol, 3.00 g | ClCCC(=O)NC1=CC=2C(C3=CC=C(C=C3NC2C=C1)NC(CCCl)=O)=O | C19H17Cl2N3O3
reactant | Pyrrolidine | 144 mmol, 12 mL, 10.22 g | N1CCCC1 | C4H9N
solvent | dimethylformamide | 45 mL | CN(C=O)C | C3H7NO
solvent | ethanol | 45 mL | C(C)O | C2H6O
product | 2,6-Bis[3-(pyrrolidino)propionamido]-9(10H)-acridone | N1(CCCC1)CCC(=O)NC1=CC=2C(C3=CC=C(C=C3NC2C=C1)NC(CCN1CCCC1)=O)=O | C27H33N5O3
